US06191280B1
5-Chloro-3-fluoro-2-phenylthiopyridine
Starting from 93 g (0.508 mol) of 2,3-difluoro-5-chloropyridine, 58.8 g (0.5276 mol) of 98.7% pure thiophenol and 3.2 mg (0.01 mol %) of copper powder which were stirred in a pressure apparatus at 185° C. for 1.5 h and worked up by the method of Example 1, 121.5 g (99.9% of theory) of the title compound were obtained as a colorless oil. 1H-NMR (ppm, d6DMSO) 8.35 (s/1H), 8.05 (d/1H), 7.4-7.6 (m/5H).

reactant | 2,3-difluoro-5-chloropyridine | 0.508 mol, 93 g | FC1=NC=C(C=C1F)Cl | C5H2ClF2N
reactant | thiophenol | 0.5276 mol, 58.8 g | C1(=CC=CC=C1)S | C6H6S
catalyst | copper | 3.2 mg | [Cu] | Cu
product | 5-Chloro-3-fluoro-2-phenylthiopyridine | ClC=1C=C(C(=NC1)SC1=CC=CC=C1)F | C11H7ClFNS
